US08106221B2
Step 1. tert-Butyl 3-(5-chloro-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)phenyl)-3-oxopropyl(methyl)carbamate
To a solution of 2-(4-chloro-2-iodophenyl)-4,4-dimethyl-4,5-dihydrooxazole (3.3 g, 9.7 mmol) in dry THF (30 mL) at −78° C. was added n-butyl lithium (2.5 M in hexane, 4.0 mL, 10.0 mmol) drop wise. After stirring for 30 min, a solution of tert-butyl 3-(methoxy(methyl)amino)-3-oxopropyl(methyl)carbamate (2.0 g, 8.1 mmol) in dry THF (5 mL) was added. The reaction mixture was warmed slowly to 0° C. then stored in refrigerator (4° C.) over night. The reaction was then warmed to room temperature and stirred 7 h. The reaction was quenched with 1N HCl, diluted with brine and ethyl acetate. After separation, the organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g column, 0% ethyl acetate in hexanes to 50% ethyl acetate in hexanes) to give product (1.2 g, 38%). 1H NMR (CD3OD) δ 7.75 (d, J=7.6 Hz, 1H), 7.55-7.60 (m, 2H), 4.10-4.20 (m, 2H), 3.58 (t, J=6.8 Hz, 2H), 3.05-3.15 (m, 2H), 2.88 (s, 3H), 1.43 (s, 9H), 1.35 (s, 6H); MS EI m/z 395 (M+H)+.

reactant | 2-(4-chloro-2-iodophenyl)-4,4-dimethyl-4,5-dihydrooxazole | 9.7 mmol, 3.3 g | ClC1=CC(=C(C=C1)C=1OCC(N1)(C)C)I | C11H11ClINO
reactant | n-butyl lithium | 10.0 mmol, 2.5 M, 4.0 mL | C(CCC)[Li]
reactant | tert-butyl 3-(methoxy(methyl)amino)-3-oxopropyl(methyl)carbamate | 8.1 mmol, 2.0 g | CON(C(CCN(C(OC(C)(C)C)=O)C)=O)C | C11H22N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(5-chloro-2-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)phenyl)-3-oxopropyl(methyl)carbamate | 1.2 g, 38% | ClC=1C=CC(=C(C1)C(CCN(C(OC(C)(C)C)=O)C)=O)C=1OCC(N1)(C)C | C20H27ClN2O4
